US04694004
To a solution of trichloromethyl chloroformate (2.76 ml) in methylene chloride (200 ml) was added a solution of 3-aminopyridine (2.165 g) in methylene chloride (50 ml) and stirred for 2 hours at -50° C. The mixture was added to a mixture of N-amino-1,2,3,6-tetrahydropyridine hydrochloride (3.096 g) and triethylamine (2.327 g) in methylene chloride (100 ml) and the resultant mixture was stirred at the same temperature. After stirring for 1 hour, the reaction mixture was allowed to warm to ambient temperature and stirred for 17 hours. After evaporation of methylene chloride, the residue was dissolved in water (50 ml) and the resultant aqueous solution was adjusted to pH 8.0-8.5 with sodium bicarbonate. The precipitate was removed by filtration and the filtrate was extracted with ethyl acetate (300 ml). The extract was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (40 g) using chloroform. The fractions containing the desired compound were combined and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to give N-[(3-pyridylcarbamoyl)amino]-1,2,3,6-tetrahydropyridine (1.62 g).

reactant | trichloromethyl chloroformate | 2.76 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 3-aminopyridine | 2.165 g | NC=1C=NC=CC1 | C5H6N2
reactant | N-amino-1,2,3,6-tetrahydropyridine hydrochloride | 3.096 g | Cl.NN1CCC=CC1
reactant | triethylamine | 2.327 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[(3-pyridylcarbamoyl)amino]-1,2,3,6-tetrahydropyridine | 1.62 g | N1=CC(=CC=C1)NC(=O)NN1CCC=CC1 | C11H14N4O
